US07220856B2
Preparation of 7-Chloro-4-(3,5-dimethylpiperazin-1-yl)quinoline
4,7-Dichloroquinoline (0.40 g, 2.0 mmol) and. 2,6-dimethylpiperazine (0.57 g, 5.0 mmol) in n-butanol (20 mL) are reacted according to method B yielding the title product after column chromatography with CH2Cl2-MeOH.

reactant | 4,7-Dichloroquinoline | 2.0 mmol, 0.40 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2,6-dimethylpiperazine | 5.0 mmol, 0.57 g | CC1NC(CNC1)C | C6H14N2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 7-Chloro-4-(3,5-dimethylpiperazin-1-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CC(NC(C1)C)C | C15H18ClN3
